US07598391B2
1-Cyclohexyl-3-(5-methylsulfanyl-thiazol-2-yl)-1-[1-(thiophene-2-carbonyl)-pyrrolidin-3 (R)-yl]-urea
Prepared as described in general procedure (H) using 1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-1-[1-(thiophene-2-carbonyl)-pyrrolidin-3 (R)-yl]-urea, dithioerythritol and methyliodide.

reactant | 1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-1-[1-(thiophene-2-carbonyl)-pyrrolidin-3 (R)-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@H]1CN(CC1)C(=O)C=1SC=CC1 | C20H23N5O2S3
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | methyliodide | CI | CH3I
product | 1-Cyclohexyl-3-(5-methylsulfanyl-thiazol-2-yl)-1-[1-(thiophene-2-carbonyl)-pyrrolidin-3 (R)-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC)[C@H]1CN(CC1)C(=O)C=1SC=CC1 | C20H26N4O2S3
